* File: MUX2_X1_xRC.sp.pex
* Created: Fri Apr 15 13:11:33 2022
* Program "Calibre xRC"
* Version "v2020.3_24.16"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_MUX2_X1%NS_BAR 3 7 9 11 12 23
c32 26 0 0.00699105f
c33 23 0 0.0131591f
c34 12 0 0.0372135f
c35 11 0 0.190797f
c36 10 0 0.00933962f
c37 9 0 0.0117898f
c38 7 0 0.0715068f
c39 3 0 0.242672f
r40 23 24 13.2037
r41 21 26 0.0315254
r42 21 23 0.985765
r43 17 26 0.173645
r44 13 26 0.173645
r45 12 17 0.858065
r46 11 13 7.11948
r47 9 24 4.2271
r48 9 10 0.625748
r49 5 10 3.59177
r50 5 7 24.3471
r51 1 10 3.59177
r52 1 3 160.179
.ends

.subckt PM_MUX2_X1%S 3 7 11 15 21 24 26 34
c39 34 0 0.0318738f
c40 26 0 0.0215038f
c41 21 0 0.0155061f
c42 18 0 0.0081345f
c43 15 0 0.208801f
c44 11 0 0.0806511f
c45 7 0 0.0890929f
c46 3 0 0.271613f
r47 27 34 15.54
r48 27 31 0.36
r49 26 27 13.2037
r50 24 26 2.16255
r51 20 24 0.566545
r52 20 21 13.2037
r53 17 21 4.68
r54 17 18 0.942294
r55 13 34 0.165865
r56 13 15 146.807
r57 9 31 0.165865
r58 9 11 39.1114
r59 5 18 3.20406
r60 5 7 38.8329
r61 1 18 3.20406
r62 1 3 146.807
.ends

.subckt PM_MUX2_X1%A 6 8 9 12 19
c22 12 0 0.181423f
c23 9 0 0.143985f
c24 8 0 0.0399822f
r25 9 19 76.1614
r26 8 9 13.2037
r27 6 8 1.86675
r28 3 12 117
r29 2 6 0.627
r30 2 3 13.2037
.ends

.subckt PM_MUX2_X1%NY_BAR 1 3 5 8 10 12 13 20 27 29 36
c46 36 0 0.0300237f
c47 29 0 0.0266401f
c48 27 0 0.00539648f
c49 20 0 0.0204515f
c50 18 0 0.0127634f
c51 13 0 0.0252112f
c52 12 0 0.0221818f
c53 11 0 0.0114486f
c54 10 0 0.0469932f
c55 8 0 0.0767459f
c56 5 0 0.21382f
c57 1 0 0.0507635f
r58 30 36 5.6
r59 29 30 13.2037
r60 27 29 3.86
r61 23 27 0.212499
r62 20 21 13.2037
r63 18 20 1.542
r64 14 18 0.212784
r65 13 23 1.558
r66 12 14 0.649257
r67 10 21 15.3537
r68 10 11 0.172446
r69 6 36 1.71263
r70 6 8 31.7571
r71 5 36 1.71263
r72 4 11 4.22431
r73 4 5 130.093
r74 1 11 4.22431
r75 1 3 13.65
.ends

.subckt PM_MUX2_X1%B 3 7 10 13 16 19 20
c25 20 0 0.0114787f
c26 19 0 0.0145631f
c27 13 0 0.0243041f
c28 10 0 0.133794f
c29 7 0 0.0723692f
c30 3 0 0.0486794f
r31 20 24 3.59275
r32 20 23 3.67275
r33 19 20 13.2037
r34 16 19 0.199938
r35 11 13 10.8
r36 10 13 0.165865
r37 10 24 116.164
r38 7 23 42.6214
r39 1 11 0.165865
r40 1 3 18.7757
.ends

.subckt PM_MUX2_X1%noxref_6 1 2 3 7 9
c21 9 0 0.00650538f
c22 7 0 0.00923906f
c23 3 0 0.00638152f
c24 2 0 0.0120321f
c25 1 0 0.0110674f
r26 7 8 1.41313
r27 2 9 0.106158
r28 2 7 0.106158
r29 2 9 0.285
r30 1 3 0.106158
r31 1 8 0.106158
r32 1 3 0.285
.ends

.subckt PM_MUX2_X1%VDD 2 3 4 6 15 21
c25 38 0 0.0117702f
c26 37 0 0.0100919f
c27 15 0 0.13277f
c28 6 0 0.0778872f
c29 4 0 0.102645f
c30 3 0 0.0297664f
c31 2 0 0.0348054f
r32 29 38 0.061121
r33 25 38 0.168184
r34 16 37 0.0525657
r35 15 38 0.061121
r36 11 37 0.187268
r37 6 37 0.0525657
r38 4 29 0.1292
r39 4 15 0.31844
r40 4 21 0.50616
r41 4 21 0.05624
r42 4 16 0.31236
r43 4 6 0.15504
r44 3 25 0.782353
r45 2 11 1.42828
.ends

.subckt PM_MUX2_X1%VSS 1 2 5 7 16 22 35
c21 35 0 0.0851214f
c22 34 0 0.0117506f
c23 16 0 0.113704f
c24 7 0 0.0775499f
c25 5 0 0.0979569f
c26 1 0 0.0284623f
r27 26 35 0.0279112
r28 17 34 0.061121
r29 16 35 0.0279112
r30 12 34 0.168184
r31 7 34 0.061121
r32 5 26 0.0874
r33 5 16 0.09804
r34 5 22 0.14136
r35 5 22 0.42104
r36 5 17 0.31236
r37 5 7 0.13604
r38 2 35 0.428699
r39 1 12 0.739882
.ends

.subckt PM_MUX2_X1%Y 1 2 7
c13 1 0 0.23742f
r14 2 7 3.48129
r15 1 7 5.3911
.ends

